US07241791B2
4-{6-hydroxy-1-[4-(methylsulfonyl)phenyl]-1H-indazol-3-yl}benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.400 g, 1.60 mmol), sodium acetate (0.267 g, 3.3 mmol) and (4-methanesulfonyl)phenylhydrazine hydrochloride (0.454 g, 2.5 mmol) to give 0.378 g of product as a tan solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 1.60 mmol, 0.400 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 3.3 mmol, 0.267 g | C(C)(=O)[O-].[Na+]
reactant | (4-methanesulfonyl)phenylhydrazine hydrochloride | 2.5 mmol, 0.454 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
product | 4-{6-hydroxy-1-[4-(methylsulfonyl)phenyl]-1H-indazol-3-yl}benzene-1,3-diol | 0.378 g | OC1=CC=C2C(=NN(C2=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=C(C=C(C=C1)O)O | C20H16N2O5S
